US05006536
To a stirred slurry of acidic silica gel (prepared from 36 g of silica gel, 120 ml of dichloromethane, and 6.6 ml of 15% aqueous sulfuric acid) was added 3-(dimethoxymethyl)-α-(2-fluorophenyl)-2-thiophenemethanol in dichloromethane (45 ml). The reaction mixture was stirred at room temperature for 1.5 hrs, poured over anhydrous potassium carbonate, and filtered. Concentration of the filtrate gave 2-[(2-fluorophenyl)hydroxymethyl]-3-thiophenecarboxaldehyde.

reactant | 3-(dimethoxymethyl)-α-(2-fluorophenyl)-2-thiophenemethanol | COC(C1=C(SC=C1)C(O)C1=C(C=CC=C1)F)OC | C14H15FO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 2-[(2-fluorophenyl)hydroxymethyl]-3-thiophenecarboxaldehyde | FC1=C(C=CC=C1)C(C=1SC=CC1C=O)O | C12H9FO2S
